* source SCHEMA
D_VD1         IN N00415 MUR160 
D_VD6         N00475 N01067 D1N758 
V_V1         IN 0   STIMULUS=sin220-50
D_VD2         0 N00415 MUR160 
D_VD3         N00475 0 MUR160 
C_C1         N01483 N00475  100n  
Q_VT2         N01276 N02091 N01815 QBC846/PLP 
D_VD4         N00475 IN MUR160 
R_R7         N00895 N00415  500  
R_R4         N01467 N01067  100k  
R_R5         N01483 N01467  3k  
R_R6         N00475 N01815  100  
R_R2         N01276 N01067  2k  
X_VD5         N00895 N01815 N00475 MAC224A6
R_R3         N00475 N01276  2k  
R_R1         N01067 N00895  30k  
Q_VT1         N02091 N01276 N01483 Q2N4250
